US07230019B2
Step1: 4-Hydroxyacetophenone (500 mg, 3.67 mmol), K2CO3 (510 mg, 3.69 mmol) and benzyl-3-bromopropyl ether (547 μL, 3.67 mmol) were suspended in ethanol (25 mL). The mixture was heated to reflux with stirring for 21 h. The volatiles were removed under reduced pressure and the contents washed with H2O and EtOAc. The organic layer was collected, dried over MgSO4 and purified on silica gel (1:3 EtOAc/Hex) yielding 4′-(2-Benzyloxyethoxy)acetophenone as a white crystalline solid (737 mg, 71%). 1H NMR (200 MHz, CDCl3) δ 2.08–2.14 (m, 2H), 2.56 (s, 3H), 3.67 (t, 2H, J=6.1 Hz), 4.16 (t, 2H, J=6.1 Hz), 4.53 (s, 2H), 6.92 (d, 2H, J=8.5 Hz), 7.31 (s, 5H), 7.93 (d, 2H, J=8.9 Hz).

reactant | 4-Hydroxyacetophenone | 3.67 mmol, 500 mg | CC(=O)C=1C=CC(=CC1)O | C8H8O2
reactant | K2CO3 | 3.69 mmol, 510 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl-3-bromopropyl ether | 3.67 mmol, 547 μL | C(C1=CC=CC=C1)C(CCOCCC(CC1=CC=CC=C1)Br)Br | C20H24Br2O
reactant | ethanol | 25 mL | C(C)O | C2H6O
product | 4′-(2-Benzyloxyethoxy)acetophenone | 737 mg, 71% | C(C1=CC=CC=C1)OCCOC1=CC=C(C=C1)C(C)=O | C17H18O3
